US05216156
N-{2,4-Bis[N-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-β-alanine
The title compound is prepared from the reaction of 2-chloro-4,6-bis[N-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine and β-alanine according to the procedure of Example 15.

reactant | 2-chloro-4,6-bis[N-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC)(C)C)NCCCCC1CC(N(C(C1)(C)C)OC)(C)C | C31H58ClN7O2
reactant | β-alanine | NCCC(=O)O | C3H7NO2
product | N-{2,4-Bis[N-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl}-β-alanine | CON1C(CC(CC1(C)C)CCCCNC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC)(C)C)NCCC(=O)O)(C)C | C34H64N8O4
